US07173058B2
Cyclopropanecarboxylic acid {2-[1-(4-difluoromethoxy-3-ethoxy-phenyl)-2-dimethylcarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide was prepared by the procedure of example 13 from 3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid (0.8 g, 1.7 mmol), CDI (0.41 g, 2.5 mmol) and dimethylamine (1.7 ml, 3.4 mmol) in THF (30 ml) to give cyclopropanecarboxylic acid {2-[1-(4-difluoromethoxy-3-ethoxy-phenyl)-2-dimethylcarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide as white solid (0.4 g, 50% yield): mp:135–137° C.; 1HNMR (CDCl3): δ 0.89(m, 2H, c-CH2), 1.43 (t, J=7.0 Hz, 3H, OCH2CH3), 1.66 (m, 1H, c-CH), 2.93 (s, 3H, CH3CO), 3.04 (dd,J=5, 15 Hz, 1H, CH2), 3.10 (s, 3H, NCH3), 3.60 (dd, J=10, 15 Hz, 1H, CH2), 4.09 (q, J=7.0 Hz, 2H, OCH2CH3), 4.33 (d, J=17.5 Hz, 1H, CH2N), 4.44 (d, J=17.5 Hz, 1H, CH2N), 5.60 (m, 1H, CHN), 6.55 (t, JH-F=75 Hz, 1H, CF2H), 7.07 (m, 4H, Ar), 7.43 (t, J=7.5 Hz, 1H, Ar), 8.42(d, J=7.5 Hz, 1H, Ar), 10.57 (s, 1H, NHCO). 13CNMR (CDCl3): δ 8.2, 14.6, 16.1, 35.6, 36.1, 37.3, 49.2, 54.0, 58.6, 64.7, 111.9, 113.5, 116.1, 116.7, 117.5, 117.6, 117.8, 119.2, 120.2, 122.7, 133.1, 138.0, 138.2, 139.7, 141.5, 159.7,169.4, 169.7, 172.6; Anal. Calcd. for C26H29F2N3O5: C, 62.27; H, 5.83; N, 8.38. Found: C, 62.07; H, 5.65; N, 8.28.

reactant | 3-[7-(cyclopropanecarbonyl-amino)-1-oxo-1,3-dihydro-isoindol-2-yl]-3-(4-difluoromethoxy-3-ethoxy-phenyl)-propionic acid | 1.7 mmol, 0.8 g | C1(CC1)C(=O)NC=1C=CC=C2CN(C(C12)=O)C(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC | C24H24F2N2O6
reactant | CDI | 2.5 mmol, 0.41 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | dimethylamine | 3.4 mmol, 1.7 ml | CNC | C2H7N
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | cyclopropanecarboxylic acid {2-[1-(4-difluoromethoxy-3-ethoxy-phenyl)-2-dimethylcarbamoyl-ethyl]-3-oxo-2,3-dihydro-1H-isoindol-4-yl}-amide | 0.4 g, 50% yield | FC(OC1=C(C=C(C=C1)C(CC(N(C)C)=O)N1CC2=CC=CC(=C2C1=O)NC(=O)C1CC1)OCC)F | C26H29F2N3O5
